US06399641B1
9H-Xanthene-9-carboxylic acid (2-tert-butyl-2H-tetrazol-5-yl)-amide
The title compound, white solid, m.p. 230-231° and MS: (neg. ions): m/e=348.2 (M+−H) was prepared in accordance with the general method of example 1 from 5-amino-2-tert-butyl-2H-tetrazole and 9H-xanthene-9-carbonyl chloride.

reactant | 5-amino-2-tert-butyl-2H-tetrazole | NC=1N=NN(N1)C(C)(C)C | C5H11N5
reactant | 9H-xanthene-9-carbonyl chloride | C1=CC=CC=2OC3=CC=CC=C3C(C12)C(=O)Cl | C14H9ClO2
product | 9H-Xanthene-9-carboxylic acid (2-tert-butyl-2H-tetrazol-5-yl)-amide | C(C)(C)(C)N1N=C(N=N1)NC(=O)C1C2=CC=CC=C2OC=2C=CC=CC12 | C19H19N5O2
